US06469003B1
Methyl iodide (0.9 ml) was added to a solution of 6-acetyl-4-(4-aminophenylthio)-2-(4-fluorophenyl)-5-methyl-3(2H)-pyridazinone (370 mg) and 2,6-lutidine (1 ml) in N,N-dimethylformamide (5 ml) at 5° C., followed by stirring at room temperature for 12 hours. Water was added to the reaction mixture and the mixture was extracted with ethyl acetate. After washing with water and a brine, the organic layer was dried over anhydrous magnesium sulfate. The solvent was removed by evaporation, and the resulting residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:1), and was crystallized from ether/hexane to obtain 6-acetyl-4-(4-dimethylaminophenylthio)-2-(4-fluorophenyl)-5-methyl-3(2H)-pyridazinone (120 mg) (Compound No. 4-04).

reactant | Methyl iodide | 0.9 ml | CI | CH3I
reactant | 6-acetyl-4-(4-aminophenylthio)-2-(4-fluorophenyl)-5-methyl-3(2H)-pyridazinone | 370 mg | C(C)(=O)C=1C(=C(C(N(N1)C1=CC=C(C=C1)F)=O)SC1=CC=C(C=C1)N)C | C19H16FN3O2S
reactant | 2,6-lutidine | 1 ml | N1=C(C=CC=C1C)C | C7H9N
reactant | Water | O | H2O
reactant | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 6-acetyl-4-(4-dimethylaminophenylthio)-2-(4-fluorophenyl)-5-methyl-3(2H)-pyridazinone | 120 mg | C(C)(=O)C=1C(=C(C(N(N1)C1=CC=C(C=C1)F)=O)SC1=CC=C(C=C1)N(C)C)C | C21H20FN3O2S
